US08754073B2
43.1 tert-butyl 4-(1H-indol-3-yl)-piperidine-1-carboxylate
10 g 3-piperidin-4-yl-1H-indole are placed in 300 mL THF and 10.9 g di-tert-butyl-dicarbonate are added. The reaction mixture is stirred overnight at ambient temperature and evaporated to dryness. The residue is mixed with water and the product is extracted with diethyl ether and purified by chromatography. 9 g of the product are obtained as a solid.

reactant | 3-piperidin-4-yl-1H-indole | 10 g | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | di-tert-butyl-dicarbonate | 10.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(1H-indol-3-yl)-piperidine-1-carboxylate | 9 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)C(=O)OC(C)(C)C | C18H24N2O2
